Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right hip abscess
 
Major Surgical or Invasive Procedure:
___ Washout with drainage deep abscess, right hip.

 
History of Present Illness:
The patient is a ___ y/o M with R THR who was admitted last month 
after sustaining a proximal femur fracture around the site of 
the hemiarthroplasty. He underwent ORIF of the fracture on ___. 
He was seen in ___ clinic on ___ and was found to have green 
drainage from the wound. He went to the OR on ___ for washout, 
where an abscess was found, which was just above the tensor 
fascia ___ and did not appear to track deep around any of the 
metalwork or total hip replacement, per the operative note.  

On ___, the patient triggered at 0420 in the morning for not 
speaking, following comands, or responding to questions. An 
urgent head CT showed no changes. Neurology saw him and 
summarized,  
___ yo man with PMH of afib, ?epilepsy (unclear seizure type) 
and history of R hip hemiarthroplasty and periprosthetic 
fracture after a fall with recent ORIF on ___ c/b wound 
infection who presented for a washout of his infected right hip. 
He was being seen in ___ clinic on ___ and purulent 
discharge was noted from the wound. He underwent I&D yesterday 
and was "normal" and "oriented" post-operatively with last well 
known time at 12:30 am. At 4 am, was found to be awake but not 
responding to the nurse. He would look around as if he were 
seeing things but would not talk to her and when she was talking 
to him or holding up a question, he wouldn't answer the 
questions. When he did start talking about ___ minutes later, 
his speech sounded slurred so he was triggered for "altered 
mental status." No previously documented neurological 
examination for comparison, but per nursing, very hard of 
hearing at baseline and has been partly communicating via 
writing on the paper at bedside (then patient reads it)." Their 
differential included seizures, TIA, and delirium.  

The patient is also having bradycardia nightly. He is 
asymptomatic, and his heart rate improves with stimulation.  

ROS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
a-fib  
epilepsy - focal seizures  
HTN  
shingles  
?CHF  
R THR 
R hib abscess
 
Social History:
___
Family History:
NC
 
Physical Exam:
admission
VITALS:  98.7 47-53 ___ 18 98%RA
General: No acute distress, friendly
HEENT: Patient wearing glasses, dentures, moist mucous membrane  

Neck: No distended JVD  
CV: Distant heart sounds, irregular, bradycardic 
Lungs: Clear to auscultation bilaterally  
Abdomen: Soft, tender, bowel sounds positive  
Ext: Right foot bandaged and ___ in boot, hip dressing c/d/i
Neuro: Alert and oriented. Patient can follow directions and 
answer questions that are written down (very hard of hearing)  

.
discharge
VITALS:  97.9 97.9 40-50 148/69 18 96%RA
General: No acute distress, friendly
HEENT: Patient wearing glasses, dentures, moist mucous membrane  

Neck: No distended JVD  
CV: Distant heart sounds, irregular, bradycardic 
Lungs: Clear to auscultation bilaterally  
Abdomen: Soft, tender, bowel sounds positive  
Ext: Right foot bandaged and ___ in boot, hip dressing c/d/i
Neuro: Alert and oriented. Patient can follow directions and 
answer questions that are written down (very hard of hearing)  

 
Pertinent Results:
admission

___ 07:10PM BLOOD WBC-4.7 RBC-3.31* Hgb-11.0* Hct-32.9* 
MCV-99* MCH-33.1* MCHC-33.3 RDW-15.0 Plt ___
___ 07:10PM BLOOD Glucose-100 UreaN-21* Creat-0.8 Na-140 
K-4.3 Cl-101 HCO3-29 AnGap-14
___ 07:10PM BLOOD ___ PTT-34.6 ___
___ 07:10PM BLOOD Calcium-9.1 Phos-3.4 Mg-2.2
.
___ CXR:  
FINDINGS: Cardiac silhouette remains enlarged, and there is 
persistent tortuosity of the thoracic aorta. Mild pulmonary 
vascular congestion is present, but there is no evidence of 
pulmonary edema. Calcified pleural plaques are present 
bilaterally, suggestive of previous asbestos exposure. New 
patchy bibasilar opacities may reflect patchy atelectasis or 
focal aspiration.  
.
___ CT head  
IMPRESSION: No acute intracranial process.  
.  
___ Femur  
IMPRESSION: Unchanged fracture of the mid shaft of the femur. No 
hardware associated complications.  
.  
___ Femur X-ray  
IMPRESSION: Interval healing of a fracture of the mid shaft of 
the femur. No hardware-associated complications are identified.  

Cultures:  
.
___ 6:40 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------     1 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S
.

___ 12:15 pm SWAB      RIGHT HIP POST IRRIGATION. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 
      ___.    RARE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ___
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 
.
___ 12:15 pm TISSUE      SUPERFICIAL RIGHT HIP #2. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      Reported to and read back by ___ ___ AT 15:18. 

      This culture contains mixed bacterial types (>=3) so an 
abbreviated
      workup is performed. Any growth of P.aeruginosa, S.aureus 
and beta
      hemolytic streptococci will be reported. IF THESE BACTERIA 
ARE NOT
      REPORTED BELOW, THEY ARE NOT PRESENT in this culture.. 
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH. 
      ___.    RARE GROWTH. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 
      PROBABLE ENTEROCOCCUS.    RARE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     2 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------     1 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
.

___ 12:15 pm SWAB      SUPERFICIAL RIGHT HIP #1. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      THIS IS A CORRECTED REPORT ___. 
      Reported to and read back by ___ ___ ___ 1240PM. 
      This culture contains mixed bacterial types (>=3) so an 
abbreviated
      workup is performed. Any growth of P.aeruginosa, S.aureus 
and beta
      hemolytic streptococci will be reported. IF THESE BACTERIA 
ARE NOT
      REPORTED BELOW, THEY ARE NOT PRESENT in this culture.. 
      Work-up of organism(s) listed below discontinued (excepted 
screened
      organisms) due to the presence of mixed bacterial flora 
detected
      after further incubation. 
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 
      ___.    SPARSE GROWTH. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___.  PREVIOUSLY REPORTED AS (___) STAPH AUREUS. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

.
discharge

___ 05:05AM BLOOD WBC-4.9 RBC-2.98* Hgb-9.8* Hct-28.8* 
MCV-97 MCH-33.0* MCHC-34.1 RDW-15.0 Plt ___
___ 05:05AM BLOOD Glucose-113* UreaN-21* Creat-0.8 Na-138 
K-3.9 Cl-103 HCO3-29 AnGap-10
___ 05:05AM BLOOD Calcium-8.5 Phos-2.8 Mg-2.2
 
Brief Hospital Course:
The patient is a ___ man with a history of hypertension, 
atrial fibrillation, and distant history of seizures who 
presented after being found to be draining from a hip wound.  
.
# Right hip abscess: Patient presented with drainage from hip 
wound, taken to OR for washout with Dr. ___ showed 
abscess although with no involvement of hardware. Swabs were 
sent, which grew PSEUDOMONAS AERUGINOSA (pansensitive), 
___ (pansensitive), PROBABLE ENTEROCOCCUS (see 
results section).  Infectious disease was therefore consulted. 
Patient was treated with vancomycin and cefepime initially and 
then transitioned to ciprofloxacin monotherapy after return of 
cultures. Patient was also evaluated by physical therapy who 
recommended discharge to rehab. Patient will follow up with 
orthopedics as an outpatient.
.
# Bradycardia: Patient was transferred to the medicine service 
mid-admission after washout largely because of bradycardia. 
Discussion with patient's HCP (daughter) suggested that patient 
has been bradycardic for some time and is frequently in the ___ 
and asymptomatic at home. Medicine evaluated the patient and 
felt that it was likely atrial fibrillation with slow 
ventricular response with high suspicion for sick sinus 
syndrome. Patient was asymptomatic and mentating well throughout 
admission without events on telemetry. 
.
# Urinary tract infection: Patient noted to have urine culture 
growing ___ Pseudomonas aeruginosa. Patient was covered 
for UTI with his antibiotics for his abscess above. Patient 
should have repeat UA after completing treatment to ensure 
clearance.
.
# Toxic/metabolic encephalopathy: Patient had an episode of 
altered mental status in the middle of the night, mid-admission. 
Patient was noted to be staring off into space and 
uninteractive. Discussion with daughter noted that patient, in 
fact, has done this on several occasions in the past, although 
with decreasing frequency after starting Keppra. It is possible 
that this was seizure with postictal state. Neurology was also 
consulted who suggested this was likely hypoactive delirium in 
context of infection described above. Patient thereafter 
remained at his baseline mental status.
.
# Disordered oropharyngeal swallowing: Patient with known 
history of this. Noted again to be coughing with POs during this 
hospitalization. Speech and swallow reconsulted and 
videooropharyngeal swallow performed, which showed risk of 
aspiration with all diets. Recommended pureed solid and honey 
thickened liquid diet. Risk of aspiration, despite dietary 
adjustment, discussed with patient's HCP (Daughter ___. She 
related that she has had this discussion before and understood 
the risks/benefits delineated by me (Dr. ___ during the 
call. Patient discharged with aspiration precautions and 
conservative diet for purposes of rehabilitation. 
.
# ?CHF: Patient evidently on furosemide at home.  We continued 
his furosemide here.
.
TRANSITIONAL ISSUES
- Patient treated initially with vancomycin/cefepime for 
treatment of hip abscess, thereafter transitioned to PO cipro 
under infectious disease team recommendations. Continue cipro 
until ___.
- Patient evaluated by neurology for altered mental status, who 
suspected toxic/metabolic encephalopathy secondary to infectious 
process, but also consideration for atypical seizure activity
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. Gabapentin 100 mg PO TID 
3. LeVETiracetam 500 mg PO TID 
4. Multivitamins 1 CAP PO DAILY 

 
Discharge Medications:
1. Furosemide 20 mg PO DAILY 
2. Gabapentin 100 mg PO TID 
3. LeVETiracetam 500 mg PO TID 
4. Multivitamins 1 CAP PO DAILY 
5. Ciprofloxacin HCl 500 mg PO Q12H 
6. Docusate Sodium 100 mg PO BID 
7. Senna 2 TAB PO HS 
8. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth Q6H:PRN 
Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Hip abscess
Urinary tract infection
Bradycardia
Atrial fibrillation
Suspected sick sinus syndrome
Toxic/metabolic encephalopathy

Secondary diagnosis:
Potential seizure disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Mr. ___:

It was a pleasure to take care of you. 

You were admitted to the hospital from clinic because you were 
found to have green drainage from your hip wound site. You were 
taken to the operative room by orthopedic surgery for a washout, 
where an abscess (localized infection) was found. You were also 
incidentally noted to have a urinary tract infection. We treated 
you with intravenous antibiotics, with guidance of our 
infectious disease doctors. ___, we transitioned you to 
an oral regimen and discharged you to rehab.

Our neurologists also saw you while you were an inpatient 
because of an episode of confusion/altered mental status. They 
felt that your confusion was likely due to the infection, 
although it is possible you also had a seizure (which you have 
had in the past).

Please follow up with your doctors as below.

Please review your medication list closely.
 
Followup Instructions:
___